.circuit
V1 N005 GND ac 20 30
E1 N009 GND N007 GND 10
R1 N007 GND 15
R2 N011 N005 30
R3 N010 N009 5
R4 GND N010 100
I1 N008 N006 ac 10 45
R5 N004 N005 14
R6 GND N008 10
R7 N006 N004 69
F1 GND N003 V2 3
R8 N003 GND 100
V2 N007 N011 ac 50 90
H1 N001 GND V2 10
R9 N001 GND 30
G1 GND N002 N004 N005 10
R10 N002 GND 30
.end
.ac V1 1e3
.ac I1 1e3
.ac V2 1e3
